US07253285B2
To a solution of (3-fluorophenyl)-ethylamine (3.06 g, 22 mmol) and rhodanine (2.66 g, 20 mmol) in acetonitrile (70 mL) was added DIEA (7.66 mL, 44 mmol) at room temperature. Then, this solution was cooled to 0° C. and mercuric chloride (5.97 g, 22 mmol) was added in two portions. After addition, the suspension was allowed to warm to room temperature and stirred for 3 days. The resulting black solids were filtered through a plug of celite and washed with dichloromethane (500 mL) and methanol (250 mL). The combined solvents were removed under the vacuum and the crude residue was dissolved in ethyl acetate (25 mL) at hot condition and stored in the refrigerator overnight. Then, the solids were collected by filtration and washed with ethyl acetate. After drying in air, 3.65 g (76.6% yield) of 2-[(3-fluorophenyl)-ethylamino]-thiazol-4-one was isolated as a white amorphous solid: HRES(+) m/e calcd for C11H11FN2OS (M+H)+239.0649, found 239.0647.

reactant | (3-fluorophenyl)-ethylamine | 22 mmol, 3.06 g | FC=1C=C(C=CC1)NCC | C8H10FN
reactant | rhodanine | 20 mmol, 2.66 g | S1C(=S)NC(=O)C1 | C3H3NOS2
reactant | DIEA | 44 mmol, 7.66 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 70 mL | C(C)#N | C2H3N
product | 2-[(3-fluorophenyl)-ethylamino]-thiazol-4-one | 3.65 g, 76.6% yield | FC=1C=C(C=CC1)N(C=1SCC(N1)=O)CC | C11H11FN2OS
